US07465731B2
To a solution of tert-butyl (3R)-3-({3-chloro-5-[(1Z)-3-ethoxy-2-fluoro-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-piperidinecarboxylate (3.3 g) in EtOH (19.3 ml) was added solution of 4N HCl in dioxane (19.3 ml) at ambient temperature and the mixture was stirred at same temperature for 1.5 hr. Diisopropylether was added to the mixture and precipitate was collected by filtration to give ethyl (2Z)-3-{5-chloro-6-[(3R)-3-piperidinylamino]-3-pyridinyl)-2-fluoroacrylate dihydrochloride (2.98 g).

reactant | tert-butyl (3R)-3-({3-chloro-5-[(1Z)-3-ethoxy-2-fluoro-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-piperidinecarboxylate | 3.3 g | ClC=1C(=NC=C(C1)\C=C(\C(=O)OCC)/F)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C20H27ClFN3O4
reactant | HCl | 4N | Cl | ClH
reactant | Diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | EtOH | 19.3 ml | CCO | C2H6O
solvent | dioxane | 19.3 ml | O1CCOCC1 | C4H8O2
product | ethyl (2Z)-3-{5-chloro-6-[(3R)-3-piperidinylamino]-3-pyridinyl)-2-fluoroacrylate dihydrochloride | 2.98 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCCC1)\C=C(\C(=O)OCC)/F | InChI=1S/C15H19ClFN3O2.2ClH/c1-2-22-15(21)13(17)7-10-6-12(16)14(19-8-10)20-11-4-3-5-18-9-11;;/h6-8,11,18H,2-5,9H2,1H3,(H,19,20);2*1H/b13-7-;;/t11-;;/m1../s1
